US06583155B2
1-(1-{3-[3-(4-Bromo-phenyl)-5-methanesulfonyl-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-2-hydroxy-propyl}-piperidin-4-yl)-6-chloro-1,3-dihydro-benzoimidazol-2-one
A stirred solution of 25.0 mg (0.061 mmol) of 3-(4-bromo-phenyl)-5-methanesulfonyl-1-oxiranylmethyl-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine and 19.0 mg (0.073 mmol) of 6-chloro-1-piperidin-4-yl-1,3-dihydro-benzoimidazol-2-one in EtOH (0.5 mL) was heated to 80° C. in a sealed vessel for 16 h. The reaction was cooled and the solvent was removed under reduced pressure. The crude product was purified by column chromatography (silica, 0-5% MeOH/CH2Cl2) to afford 0.025 g (63%) of the title compound. TLC (silica, 5% MeOH/CH2Cl2): Rf=0.4. MS (electrospray): m/z calculated for C28H32BrClN6O4S [M++H] 663.11, observed 663.0. 1H NMR (400 MHz, CDCl3): 10.2 (s, 1H), 7.52 and 7.46 (A and B of AA′BB′, J=8.6 Hz, 4H), 7.15 (br d, J=1.5 Hz, 1H), 7.04-6.95 (m, 2H), 4.52 and 4.49 (A and B of AB quartet, Jab=14.5 Hz, 2H), 4.33-4.14 (m, 3H), 4.07-3.97 (m, 1H), 3.74-3.58 (m, 2H), 3.17-2.89 (m, 4H), 2.86 (s, 3H), 2.57-2.30 (m, 5H), 2.20 (t, J=11.1 Hz, 1H), 1.87-1.73 (m, 2H).

reactant | 3-(4-bromo-phenyl)-5-methanesulfonyl-1-oxiranylmethyl-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine | 0.061 mmol, 25.0 mg | BrC1=CC=C(C=C1)C1=NN(C2=C1CN(CC2)S(=O)(=O)C)CC2OC2 | C16H18BrN3O3S
reactant | 6-chloro-1-piperidin-4-yl-1,3-dihydro-benzoimidazol-2-one | 0.073 mmol, 19.0 mg | ClC=1C=CC2=C(N(C(N2)=O)C2CCNCC2)C1 | C12H14ClN3O
solvent | EtOH | 0.5 mL | CCO | C2H6O
product | 1-(1-{3-[3-(4-Bromo-phenyl)-5-methanesulfonyl-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-2-hydroxy-propyl}-piperidin-4-yl)-6-chloro-1,3-dihydro-benzoimidazol-2-one | 0.025 g, 63% | BrC1=CC=C(C=C1)C1=NN(C2=C1CN(CC2)S(=O)(=O)C)CC(CN2CCC(CC2)N2C(NC1=C2C=C(C=C1)Cl)=O)O | C28H32BrClN6O4S
